US05958918
A. 7-Methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(2-nitrobenzyl)amide
The title compound is prepared as described in EXAMPLE 25, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide as the starting material and o-nitrobenzyl bromide in place of methyl iodide. The crude product is triturated from 50% EtOAc/hexanes to afford the title compound as a solid.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C23H21N3O4S
reactant | o-nitrobenzyl bromide | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(2-nitrobenzyl)amide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC2=C(C=CC=C2)[N+](=O)[O-])=O)C=CC1 | C30H26N4O6S
